**************************************************
* Manufacturer:          Würth Elektronik
* Kinds:                 Offline Flyback Transformers
* Matchcode:             WE-OLTI
* Library Type:          Pspice
* Version:               rev25a
* Created/modified by:   Ella
* Date and Time:         03/04/2025
* Team:                  eiSos EDA Service  
* Contact:               libraries@we-online.com
**************************************************
* Copyright(C) 2025 Würth Elektronik eiSos GmbH & Co. KG
* All Rights Reserved.
**************************************************
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.
**************************************************

.subckt	OLTI_EE20106_7508112339		3  1  5  4  8  9  11  13  12  14	
.param RxLkg=3938.24ohm				
.param Leakage=2.47uh				
Rlkg	3	3a	{RxLkg}	
L_Lkg	3	3a	{Leakage}	
Lpri1	3a	3b	217.53uH	
Rser1	3b	1	435mohm	
Laux1	5	5a	10.102uH	
Rser3	5a	4	115mohm	
Laux2	8	8a	1.122uH	
Rser4	8a	9	55mohm	
Lsec1	11	11a	4.49uH	
Rser5	11a	13	20mohm	
Lsec2	12	12a	4.49uH	
Rser6	12a	14	20mohm	
K Lpri1  Laux1 Laux2 Lsec1 Lsec2       1				
.param Cprm1=4.47pf				
.param Rdmp1=350774.03ohm				
Cpri1	3	1a	{Cprm1}	
Rser13	1a	1	10mohm	
Rdmp1	3	1	{Rdmp1}	
Rg3	3	0	20meg	
Rg5	5	0	20meg	
Rg6	8	0	20meg	
Rg7	1	0	20meg	
Rg9	4	0	20meg	
Rg10	9	0	20meg	
Rg11	11	0	20meg	
Rg12	12	0	20meg	
Rg19	13	0	20meg	
Rg20	14	0	20meg	
.ends				

.subckt	OLTI_PQ2625_750343068		3  1  7  6  12  10	
.param RxLkg=3030.64ohm				
.param Leakage=2.6uh				
Rlkg	3	3a	{RxLkg}	
L_Lkg	3	3a	{Leakage}	
Lpri1	3a	3b	227.4uH	
Rser1	3b	1	164mohm	
Laux1	7	7a	10.525uH	
Rser3	7a	6	147mohm	
Lsec1	12	12a	15.278uH	
Rser5	12a	10	16mohm	
K Lpri1  Laux1  Lsec1        1				
.param Cprm1=8pf				
.param Rdmp1=268095.22ohm				
Cpri1	3	1a	{Cprm1}	
Rser13	1a	1	10mohm	
Rdmp1	3	1	{Rdmp1}	
Rg3	3	0	20meg	
Rg5	7	0	20meg	
Rg7	1	0	20meg	
Rg9	6	0	20meg	
Rg11	12	0	20meg	
Rg19	10	0	20meg	
.ends				

.subckt	OLTI_ETD39_750315340		5  4  3  2  7  6  10  13	
.param RxLkg=3146.57ohm				
.param Leakage=8uh				
Rlkg	5	5a	{RxLkg/2}	
L_Lkg	5	5a	{Leakage/2}	
Rlkg2	3	3a	{RxLkg/2}	
L_Lkg2	3	3a	{Leakage/2}	
Lpri1	5a	5b	46uH	
Rser1	5b	4	101mohm	
Lpri2	3a	3b	46uH	
Rser2	3b	2	121mohm	
Laux1	7	7a	2.469uH	
Rser3	7a	6	45mohm	
Lsec1	10	10a	9.877uH	
Rser5	10a	13	47mohm	
K Lpri1 Lpri2 Laux1  Lsec1        1				
.param Cprm1=161.6pf				
.param Cprm2=161.6pf				
.param Rdmp1=19666.06ohm				
.param Rdmp2=19666.06ohm				
Cpri1	5	4a	{Cprm1}	
Rser13	4a	4	10mohm	
Cpri2	3	2a	{Cprm2}	
Rser14	2a	2	10mohm	
Rdmp1	5	4	{Rdmp1}	
Rdmp2	3	2	{Rdmp2}	
Rg3	5	0	20meg	
Rg4	3	0	20meg	
Rg5	7	0	20meg	
Rg7	4	0	20meg	
Rg8	2	0	20meg	
Rg9	6	0	20meg	
Rg11	10	0	20meg	
Rg19	13	0	20meg	
.ends				

.subckt	OLTI_ETD29_750342585		4  1  6  7  14  13  12  11  9  8	
.param RxLkg=5096.84ohm				
.param Leakage=32.48uh				
Rlkg	4	4a	{RxLkg}	
L_Lkg	4	4a	{Leakage}	
Lpri1	4a	4b	2467.52uH	
Rser1	4b	1	1472mohm	
Laux1	6	6a	7.935uH	
Rser3	6a	7	85mohm	
Lsec1	14	14a	1.984uH	
Rser5	14a	13	9.8mohm	
Lsec2	13	13a	7.935uH	
Rser6	13a	12	18mohm	
Lsec3	12	12a	7.935uH	
Rser7	12a	11	116mohm	
Lsec4	9	9a	1.116uH	
Rser8	9a	8	53mohm	
K Lpri1  Laux1  Lsec1 Lsec2 Lsec3 Lsec4     1				
.param Cprm1=40.61pf				
.param Rdmp1=392306.38ohm				
Cpri1	4	1a	{Cprm1}	
Rser13	1a	1	10mohm	
Rdmp1	4	1	{Rdmp1}	
Rg3	4	0	20meg	
Rg5	6	0	20meg	
Rg7	1	0	20meg	
Rg9	7	0	20meg	
Rg11	14	0	20meg	
Rg14	9	0	20meg	
Rg19	13	0	20meg	
Rg20	12	0	20meg	
Rg21	11	0	20meg	
Rg22	8	0	20meg	
.ends				

.subckt	OLTI_ERL35_750316326		2  4  3  5  6  7  12  8	
.param RxLkg=2121.31ohm				
.param Leakage=4.5uh				
Rlkg	2	2a	{RxLkg/2}	
L_Lkg	2	2a	{Leakage/2}	
Rlkg2	3	3a	{RxLkg/2}	
L_Lkg2	3	3a	{Leakage/2}	
Lpri1	2a	2b	120.786uH	
Rser1	2b	4	60mohm	
Lpri2	3a	3b	20.021uH	
Rser2	3b	5	60mohm	
Laux1	6	6a	4.067uH	
Rser3	6a	7	65mohm	
Lsec1	12	12a	16.269uH	
Rser5	12a	8	7mohm	
K Lpri1 Lpri2 Laux1  Lsec1        1				
.param Cprm1=45.7182148760331pf				
.param Cprm2=252.570677186062pf				
.param Rdmp1=57999.59ohm				
.param Rdmp2=57999.59ohm				
Cpri1	2	4a	{Cprm1}	
Rser13	4a	4	10mohm	
Cpri2	3	5a	{Cprm2}	
Rser14	5a	5	10mohm	
Rdmp1	2	4	{Rdmp1}	
Rdmp2	3	5	{Rdmp2}	
Rg3	2	0	20meg	
Rg4	3	0	20meg	
Rg5	6	0	20meg	
Rg7	4	0	20meg	
Rg8	5	0	20meg	
Rg9	7	0	20meg	
Rg11	12	0	20meg	
Rg19	8	0	20meg	
.ends				

.subckt	OLTI_ER2817_7508113417		4  2  3  1  6  5  8  11	
.param RxLkg=3371.88ohm				
.param Leakage=3.5uh				
Rlkg	4	4a	{RxLkg/2}	
L_Lkg	4	4a	{Leakage/2}	
Rlkg2	3	3a	{RxLkg/2}	
L_Lkg2	3	3a	{Leakage/2}	
Lpri1	4a	4b	33.25uH	
Rser1	4b	2	67.5mohm	
Lpri2	3a	3b	33.25uH	
Rser2	3b	1	67.5mohm	
Laux1	6	6a	4.505uH	
Rser3	6a	5	14mohm	
Lsec1	8	8a	13.254uH	
Rser5	8a	11	80mohm	
K Lpri1 Lpri2 Laux1  Lsec1        1				
.param Cprm1=38.48pf				
.param Cprm2=38.48pf				
.param Rdmp1=33718.81ohm				
.param Rdmp2=33718.81ohm				
Cpri1	4	2a	{Cprm1}	
Rser13	2a	2	10mohm	
Cpri2	3	1a	{Cprm2}	
Rser14	1a	1	10mohm	
Rdmp1	4	2	{Rdmp1}	
Rdmp2	3	1	{Rdmp2}	
Rg3	4	0	20meg	
Rg4	3	0	20meg	
Rg5	6	0	20meg	
Rg7	2	0	20meg	
Rg8	1	0	20meg	
Rg9	5	0	20meg	
Rg11	8	0	20meg	
Rg19	11	0	20meg	
.ends				

.subckt	OLTI_ER2814_750813743		3  1  6  5  7  9  10  12	
.param RxLkg=2745.51ohm				
.param Leakage=3.4uh				
Rlkg	3	3a	{RxLkg}	
L_Lkg	3	3a	{Leakage}	
Lpri1	3a	3b	176.6uH	
Rser1	3b	1	165mohm	
Laux1	6	6a	1.8uH	
Rser3	6a	5	44mohm	
Lsec1	7	7a	1.8uH	
Rser5	7a	9	10mohm	
Lsec2	10	10a	1.8uH	
Rser6	10a	12	10mohm	
K Lpri1  Laux1  Lsec1 Lsec2       1				
.param Cprm1=21.3pf				
.param Rdmp1=145350.43ohm				
Cpri1	3	1a	{Cprm1}	
Rser13	1a	1	10mohm	
Rdmp1	3	1	{Rdmp1}	
Rg3	3	0	20meg	
Rg5	6	0	20meg	
Rg7	1	0	20meg	
Rg9	5	0	20meg	
Rg11	7	0	20meg	
Rg12	10	0	20meg	
Rg19	9	0	20meg	
Rg20	12	0	20meg	
.ends				

.subckt	OLTI_ER2814_750343004		3  1  5  4  9  6	
.param RxLkg=1825.74ohm				
.param Leakage=2.4uh				
Rlkg	3	3a	{RxLkg}	
L_Lkg	3	3a	{Leakage}	
Lpri1	3a	3b	157.6uH	
Rser1	3b	1	123mohm	
Laux1	5	5a	6.084uH	
Rser3	5a	4	9mohm	
Lsec1	9	9a	10uH	
Rser5	9a	6	120mohm	
K Lpri1  Laux1  Lsec1        1				
.param Cprm1=27pf				
.param Rdmp1=121715.86ohm				
Cpri1	3	1a	{Cprm1}	
Rser13	1a	1	10mohm	
Rdmp1	3	1	{Rdmp1}	
Rg3	3	0	20meg	
Rg5	5	0	20meg	
Rg7	1	0	20meg	
Rg9	4	0	20meg	
Rg11	9	0	20meg	
Rg19	6	0	20meg	
.ends				

.subckt	OLTI_EP13_7508110151		3  5  1  2  9  7	
.param RxLkg=6925.45ohm				
.param Leakage=20uh				
Rlkg	3	3a	{RxLkg}	
L_Lkg	3	3a	{Leakage}	
Lpri1	3a	3b	1480uH	
Rser1	3b	5	2050mohm	
Laux1	1	1a	72.563uH	
Rser3	1a	2	530mohm	
Lsec1	9	9a	7.346uH	
Rser5	9a	7	20mohm	
K Lpri1  Laux1  Lsec1        1				
.param Cprm1=13.9pf				
.param Rdmp1=519408.94ohm				
Cpri1	3	5a	{Cprm1}	
Rser13	5a	5	10mohm	
Rdmp1	3	5	{Rdmp1}	
Rg3	3	0	20meg	
Rg5	1	0	20meg	
Rg7	5	0	20meg	
Rg9	2	0	20meg	
Rg11	9	0	20meg	
Rg19	7	0	20meg	
.ends				

.subckt	OLTI_EP13_7508110127		3  5  1  2  9  7	
.param RxLkg=9634.12ohm				
.param Leakage=23uh				
Rlkg	3	3a	{RxLkg}	
L_Lkg	3	3a	{Leakage}	
Lpri1	3a	3b	1027uH	
Rser1	3b	5	1650mohm	
Laux1	1	1a	52.48uH	
Rser3	1a	2	500mohm	
Lsec1	9	9a	5.232uH	
Rser5	9a	7	20mohm	
K Lpri1  Laux1  Lsec1        1				
.param Cprm1=13.57pf				
.param Rdmp1=439818.57ohm				
Cpri1	3	5a	{Cprm1}	
Rser13	5a	5	10mohm	
Rdmp1	3	5	{Rdmp1}	
Rg3	3	0	20meg	
Rg5	1	0	20meg	
Rg7	5	0	20meg	
Rg9	2	0	20meg	
Rg11	9	0	20meg	
Rg19	7	0	20meg	
.ends				

.subckt	OLTI_EFD25_7508112341		3  1  6  5  10  7	
.param RxLkg=3905.83ohm				
.param Leakage=4uh				
Rlkg	3	3a	{RxLkg}	
L_Lkg	3	3a	{Leakage}	
Lpri1	3a	3b	376uH	
Rser1	3b	1	630mohm	
Laux1	6	6a	7.755uH	
Rser3	6a	5	110mohm	
Lsec1	10	10a	7.755uH	
Rser5	10a	7	22mohm	
K Lpri1  Laux1  Lsec1        1				
.param Cprm1=6.9pf				
.param Rdmp1=371053.76ohm				
Cpri1	3	1a	{Cprm1}	
Rser13	1a	1	10mohm	
Rdmp1	3	1	{Rdmp1}	
Rg3	3	0	20meg	
Rg5	6	0	20meg	
Rg7	1	0	20meg	
Rg9	5	0	20meg	
Rg11	10	0	20meg	
Rg19	7	0	20meg	
.ends				

.subckt	OLTI_EFD20_750318383		3  1  5  4  10  8  7  6	
.param RxLkg=4650.44ohm				
.param Leakage=10uh				
Rlkg	3	3a	{RxLkg}	
L_Lkg	3	3a	{Leakage}	
Lpri1	3a	3b	670uH	
Rser1	3b	1	1420mohm	
Laux1	5	5a	7.113uH	
Rser3	5a	4	135mohm	
Lsec1	10	10a	0.79uH	
Rser5	10a	8	25mohm	
Lsec2	8	8a	2.196uH	
Rser6	8a	7	12mohm	
Lsec3	7	7a	7.113uH	
Rser7	7a	6	68mohm	
K Lpri1  Laux1  Lsec1 Lsec2 Lsec3      1				
.param Cprm1=17pf				
.param Rdmp1=316229.7ohm				
Cpri1	3	1a	{Cprm1}	
Rser13	1a	1	10mohm	
Rdmp1	3	1	{Rdmp1}	
Rg3	3	0	20meg	
Rg5	5	0	20meg	
Rg7	1	0	20meg	
Rg9	4	0	20meg	
Rg11	10	0	20meg	
Rg19	8	0	20meg	
Rg20	7	0	20meg	
Rg21	6	0	20meg	
.ends				

.subckt	OLTI_EE25137_750342851		5  3  6  7  14  1  12  13  10  11  8  9	
.param RxLkg=2590.88ohm				
.param Leakage=2.7uh				
Rlkg	5	5a	{RxLkg}	
L_Lkg	5	5a	{Leakage}	
Lpri1	5a	5b	147.3uH	
Rser1	5b	3	160mohm	
Laux1	6	6a	10.667uH	
Rser3	6a	7	56mohm	
Lsec1	14	14a	24uH	
Rser5	14a	1	38mohm	
Lsec2	12	12a	10.667uH	
Rser6	12a	13	143mohm	
Lsec3	10	10a	10.667uH	
Rser7	10a	11	150mohm	
Lsec4	8	8a	10.667uH	
Rser8	8a	9	160.2mohm	
K Lpri1  Laux1  Lsec1 Lsec2 Lsec3 Lsec4     1				
.param Cprm1=18.1pf				
.param Rdmp1=143938.04ohm				
Cpri1	5	3a	{Cprm1}	
Rser13	3a	3	10mohm	
Rdmp1	5	3	{Rdmp1}	
Rg3	5	0	20meg	
Rg5	6	0	20meg	
Rg7	3	0	20meg	
Rg9	7	0	20meg	
Rg11	14	0	20meg	
Rg12	12	0	20meg	
Rg13	10	0	20meg	
Rg14	8	0	20meg	
Rg19	1	0	20meg	
Rg20	13	0	20meg	
Rg21	11	0	20meg	
Rg22	9	0	20meg	
.ends				

.subckt	OLTI_EE25137_750315242		3  1  5  4  7  6  8  10  12  13	
.param RxLkg=3426.23ohm				
.param Leakage=9uh				
Rlkg	3	3a	{RxLkg}	
L_Lkg	3	3a	{Leakage}	
Lpri1	3a	3b	591uH	
Rser1	3b	1	740mohm	
Laux1	5	5a	11.62uH	
Rser3	5a	4	180mohm	
Laux2	7	7a	7.37uH	
Rser4	7a	6	300mohm	
Lsec1	8	8a	4.167uH	
Rser5	8a	10	12mohm	
Lsec2	12	12a	4.167uH	
Rser6	12a	13	13mohm	
K Lpri1  Laux1 Laux2 Lsec1 Lsec2       1				
.param Cprm1=28.75pf				
.param Rdmp1=228415.15ohm				
Cpri1	3	1a	{Cprm1}	
Rser13	1a	1	10mohm	
Rdmp1	3	1	{Rdmp1}	
Rg3	3	0	20meg	
Rg5	5	0	20meg	
Rg6	7	0	20meg	
Rg7	1	0	20meg	
Rg9	4	0	20meg	
Rg10	6	0	20meg	
Rg11	8	0	20meg	
Rg12	12	0	20meg	
Rg19	10	0	20meg	
Rg20	13	0	20meg	
.ends				

.subckt	OLTI_EE25137_750315046		4  2  6  5  9  12	
.param RxLkg=5391.6ohm				
.param Leakage=20uh				
Rlkg	4	4a	{RxLkg}	
L_Lkg	4	4a	{Leakage}	
Lpri1	4a	4b	980uH	
Rser1	4b	2	880mohm	
Laux1	6	6a	13.313uH	
Rser3	6a	5	75mohm	
Lsec1	9	9a	13.313uH	
Rser5	9a	12	20mohm	
K Lpri1  Laux1  Lsec1        1				
.param Cprm1=34.4pf				
.param Rdmp1=269580.07ohm				
Cpri1	4	2a	{Cprm1}	
Rser13	2a	2	10mohm	
Rdmp1	4	2	{Rdmp1}	
Rg3	4	0	20meg	
Rg5	6	0	20meg	
Rg7	2	0	20meg	
Rg9	5	0	20meg	
Rg11	9	0	20meg	
Rg19	12	0	20meg	
.ends				

.subckt	OLTI_EE20106_750817930		3  1  5  4  13  14  10  11  7  8	
.param RxLkg=4550.9ohm				
.param Leakage=7.5uh				
Rlkg	3	3a	{RxLkg}	
L_Lkg	3	3a	{Leakage}	
Lpri1	3a	3b	342.5uH	
Rser1	3b	1	485mohm	
Laux1	5	5a	16.071uH	
Rser3	5a	4	120mohm	
Lsec1	13	13a	7.143uH	
Rser5	13a	14	37mohm	
Lsec2	10	10a	7.143uH	
Rser6	10a	11	36mohm	
Lsec3	7	7a	7.143uH	
Rser7	7a	8	37mohm	
K Lpri1  Laux1  Lsec1 Lsec2 Lsec3      1				
.param Cprm1=19.4pf				
.param Rdmp1=212375.12ohm				
Cpri1	3	1a	{Cprm1}	
Rser13	1a	1	10mohm	
Rdmp1	3	1	{Rdmp1}	
Rg3	3	0	20meg	
Rg5	5	0	20meg	
Rg7	1	0	20meg	
Rg9	4	0	20meg	
Rg11	13	0	20meg	
Rg12	10	0	20meg	
Rg13	7	0	20meg	
Rg19	14	0	20meg	
Rg20	11	0	20meg	
Rg21	8	0	20meg	
.ends				

.subckt	OLTI_EE20106_750811647		3  1  5  4  8  11  10  13	
.param RxLkg=2345.48ohm				
.param Leakage=3.25uh				
Rlkg	3	3a	{RxLkg}	
L_Lkg	3	3a	{Leakage}	
Lpri1	3a	3b	246.75uH	
Rser1	3b	1	260mohm	
Laux1	5	5a	18.906uH	
Rser3	5a	4	270mohm	
Lsec1	8	8a	2.5uH	
Rser5	8a	11	30mohm	
Lsec2	10	10a	15.625uH	
Rser6	10a	13	15mohm	
K Lpri1  Laux1  Lsec1 Lsec2       1				
.param Cprm1=19.2pf				
.param Rdmp1=180421.67ohm				
Cpri1	3	1a	{Cprm1}	
Rser13	1a	1	10mohm	
Rdmp1	3	1	{Rdmp1}	
Rg3	3	0	20meg	
Rg5	5	0	20meg	
Rg7	1	0	20meg	
Rg9	4	0	20meg	
Rg11	8	0	20meg	
Rg12	10	0	20meg	
Rg19	11	0	20meg	
Rg20	13	0	20meg	
.ends				

.subckt	OLTI_EE20106_750343661		3  1  5  4  8  14  10  13	
.param RxLkg=6546.53ohm				
.param Leakage=6uh				
Rlkg	3	3a	{RxLkg}	
L_Lkg	3	3a	{Leakage}	
Lpri1	3a	3b	494uH	
Rser1	3b	1	870mohm	
Laux1	5	5a	59.082uH	
Rser3	5a	4	86mohm	
Lsec1	8	8a	7.813uH	
Rser5	8a	14	155mohm	
Lsec2	10	10a	23.926uH	
Rser6	10a	13	6mohm	
K Lpri1  Laux1  Lsec1 Lsec2       1				
.param Cprm1=4.2pf				
.param Rdmp1=545543.85ohm				
Cpri1	3	1a	{Cprm1}	
Rser13	1a	1	10mohm	
Rdmp1	3	1	{Rdmp1}	
Rg3	3	0	20meg	
Rg5	5	0	20meg	
Rg7	1	0	20meg	
Rg9	4	0	20meg	
Rg11	8	0	20meg	
Rg12	10	0	20meg	
Rg19	14	0	20meg	
Rg20	13	0	20meg	
.ends				

.subckt	OLTI_EE20106_750343466		3  1  5  6  8  12	
.param RxLkg=2210.57ohm				
.param Leakage=4.5uh				
Rlkg	3	3a	{RxLkg}	
L_Lkg	3	3a	{Leakage}	
Lpri1	3a	3b	275.5uH	
Rser1	3b	1	410mohm	
Laux1	5	5a	8.092uH	
Rser3	5a	6	440mohm	
Lsec1	8	8a	15.873uH	
Rser5	8a	12	30mohm	
K Lpri1  Laux1  Lsec1        1				
.param Cprm1=37pf				
.param Rdmp1=137546.72ohm				
Cpri1	3	1a	{Cprm1}	
Rser13	1a	1	10mohm	
Rdmp1	3	1	{Rdmp1}	
Rg3	3	0	20meg	
Rg5	5	0	20meg	
Rg7	1	0	20meg	
Rg9	6	0	20meg	
Rg11	8	0	20meg	
Rg19	12	0	20meg	
.ends				

.subckt	OLTI_EE20106_750317406		3  1  5  4  11  13  8  10	
.param RxLkg=5307.43ohm				
.param Leakage=12uh				
Rlkg	3	3a	{RxLkg}	
L_Lkg	3	3a	{Leakage}	
Lpri1	3a	3b	588uH	
Rser1	3b	1	1120mohm	
Laux1	5	5a	48.98uH	
Rser3	5a	4	355mohm	
Lsec1	11	11a	12.245uH	
Rser5	11a	13	30mohm	
Lsec2	8	8a	1.361uH	
Rser6	8a	10	110mohm	
K Lpri1  Laux1  Lsec1 Lsec2       1				
.param Cprm1=21.3pf				
.param Rdmp1=265371.59ohm				
Cpri1	3	1a	{Cprm1}	
Rser13	1a	1	10mohm	
Rdmp1	3	1	{Rdmp1}	
Rg3	3	0	20meg	
Rg5	5	0	20meg	
Rg7	1	0	20meg	
Rg9	4	0	20meg	
Rg11	11	0	20meg	
Rg12	8	0	20meg	
Rg19	13	0	20meg	
Rg20	10	0	20meg	
.ends				

.subckt	OLTI_EE20106_750316585		3  1  5  4  12  14  8  10	
.param RxLkg=16984.2ohm				
.param Leakage=30uh				
Rlkg	3	3a	{RxLkg}	
L_Lkg	3	3a	{Leakage}	
Lpri1	3a	3b	570uH	
Rser1	3b	1	4250mohm	
Laux1	5	5a	39.855uH	
Rser3	5a	4	1900mohm	
Lsec1	12	12a	21.045uH	
Rser5	12a	14	100mohm	
Lsec2	8	8a	4.428uH	
Rser6	8a	10	37mohm	
K Lpri1  Laux1  Lsec1 Lsec2       1				
.param Cprm1=13pf				
.param Rdmp1=339684.08ohm				
Cpri1	3	1a	{Cprm1}	
Rser13	1a	1	10mohm	
Rdmp1	3	1	{Rdmp1}	
Rg3	3	0	20meg	
Rg5	5	0	20meg	
Rg7	1	0	20meg	
Rg9	4	0	20meg	
Rg11	12	0	20meg	
Rg12	8	0	20meg	
Rg19	14	0	20meg	
Rg20	10	0	20meg	
.ends				

.subckt	OLTI_EE20106_750315241		3  1  5  4  9  13	
.param RxLkg=4504.27ohm				
.param Leakage=21uh				
Rlkg	3	3a	{RxLkg}	
L_Lkg	3	3a	{Leakage}	
Lpri1	3a	3b	1079uH	
Rser1	3b	1	2100mohm	
Laux1	5	5a	17.188uH	
Rser3	5a	4	600mohm	
Lsec1	9	9a	68.75uH	
Rser5	9a	13	125mohm	
K Lpri1  Laux1  Lsec1        1				
.param Cprm1=49.4pf				
.param Rdmp1=235938.01ohm				
Cpri1	3	1a	{Cprm1}	
Rser13	1a	1	10mohm	
Rdmp1	3	1	{Rdmp1}	
Rg3	3	0	20meg	
Rg5	5	0	20meg	
Rg7	1	0	20meg	
Rg9	4	0	20meg	
Rg11	9	0	20meg	
Rg19	13	0	20meg	
.ends				

.subckt	OLTI_EE1685_7508111323		9  7  12  11  1  4  3  6	
.param RxLkg=9587.2ohm				
.param Leakage=50uh				
Rlkg	9	9a	{RxLkg}	
L_Lkg	9	9a	{Leakage}	
Lpri1	9a	9b	1950uH	
Rser1	9b	7	2080mohm	
Laux1	12	12a	31.25uH	
Rser3	12a	11	364mohm	
Lsec1	1	1a	31.25uH	
Rser5	1a	4	40.5mohm	
Lsec2	3	3a	31.25uH	
Rser6	3a	6	40.5mohm	
K Lpri1  Laux1  Lsec1 Lsec2       1				
.param Cprm1=34pf				
.param Rdmp1=383487.93ohm				
Cpri1	9	7a	{Cprm1}	
Rser13	7a	7	10mohm	
Rdmp1	9	7	{Rdmp1}	
Rg3	9	0	20meg	
Rg5	12	0	20meg	
Rg7	7	0	20meg	
Rg9	11	0	20meg	
Rg11	1	0	20meg	
Rg12	3	0	20meg	
Rg19	4	0	20meg	
Rg20	6	0	20meg	
.ends				

.subckt	OLTI_EE1685_750316686		3  1  5  4  7  8	
.param RxLkg=4982.69ohm				
.param Leakage=12uh				
Rlkg	3	3a	{RxLkg}	
L_Lkg	3	3a	{Leakage}	
Lpri1	3a	3b	488uH	
Rser1	3b	1	640mohm	
Laux1	5	5a	13.889uH	
Rser3	5a	4	228mohm	
Lsec1	7	7a	13.889uH	
Rser5	7a	8	35mohm	
K Lpri1  Laux1  Lsec1        1				
.param Cprm1=29pf				
.param Rdmp1=207612.15ohm				
Cpri1	3	1a	{Cprm1}	
Rser13	1a	1	10mohm	
Rdmp1	3	1	{Rdmp1}	
Rg3	3	0	20meg	
Rg5	5	0	20meg	
Rg7	1	0	20meg	
Rg9	4	0	20meg	
Rg11	7	0	20meg	
Rg19	8	0	20meg	
.ends				

.subckt	OLTI_EE1685_750313739		2  5  1  4  8  6  9  7	
.param RxLkg=11316.52ohm				
.param Leakage=36uh				
Rlkg	2	2a	{RxLkg}	
L_Lkg	2	2a	{Leakage}	
Lpri1	2a	2b	1064uH	
Rser1	2b	5	2680mohm	
Laux1	1	1a	49.495uH	
Rser3	1a	4	685mohm	
Lsec1	8	8a	4.04uH	
Rser5	8a	6	15mohm	
Lsec2	9	9a	4.04uH	
Rser6	9a	7	15mohm	
K Lpri1  Laux1  Lsec1 Lsec2       1				
.param Cprm1=23pf				
.param Rdmp1=345782.54ohm				
Cpri1	2	5a	{Cprm1}	
Rser13	5a	5	10mohm	
Rdmp1	2	5	{Rdmp1}	
Rg3	2	0	20meg	
Rg5	1	0	20meg	
Rg7	5	0	20meg	
Rg9	4	0	20meg	
Rg11	8	0	20meg	
Rg12	9	0	20meg	
Rg19	6	0	20meg	
Rg20	7	0	20meg	
.ends				

.subckt	OLTI_EE1675_750815039		3  1  5  4  7  9	
.param RxLkg=14052.97ohm				
.param Leakage=100uh				
Rlkg	3	3a	{RxLkg}	
L_Lkg	3	3a	{Leakage}	
Lpri1	3a	3b	6500uH	
Rser1	3b	1	5750mohm	
Laux1	5	5a	20.37uH	
Rser3	5a	4	97mohm	
Lsec1	7	7a	20.37uH	
Rser5	7a	9	107mohm	
K Lpri1  Laux1  Lsec1        1				
.param Cprm1=19.18pf				
.param Rdmp1=927496.17ohm				
Cpri1	3	1a	{Cprm1}	
Rser13	1a	1	10mohm	
Rdmp1	3	1	{Rdmp1}	
Rg3	3	0	20meg	
Rg5	5	0	20meg	
Rg7	1	0	20meg	
Rg9	4	0	20meg	
Rg11	7	0	20meg	
Rg19	9	0	20meg	
.ends				

.subckt	OLTI_EE1675_7508110329		3  1  4  5  7  9	
.param RxLkg=1805.92ohm				
.param Leakage=4.15uh				
Rlkg	3	3a	{RxLkg}	
L_Lkg	3	3a	{Leakage}	
Lpri1	3a	3b	695.85uH	
Rser1	3b	1	650mohm	
Laux1	4	4a	16.07uH	
Rser3	4a	5	35mohm	
Lsec1	7	7a	16.07uH	
Rser5	7a	9	125mohm	
K Lpri1  Laux1  Lsec1        1				
.param Cprm1=18.86pf				
.param Rdmp1=304612.59ohm				
Cpri1	3	1a	{Cprm1}	
Rser13	1a	1	10mohm	
Rdmp1	3	1	{Rdmp1}	
Rg3	3	0	20meg	
Rg5	4	0	20meg	
Rg7	1	0	20meg	
Rg9	5	0	20meg	
Rg11	7	0	20meg	
Rg19	9	0	20meg	
.ends				

.subckt	OLTI_EE1675_750344367		3  1  5  4  9  10  7  8	
.param RxLkg=2180.69ohm				
.param Leakage=7uh				
Rlkg	3	3a	{RxLkg}	
L_Lkg	3	3a	{Leakage}	
Lpri1	3a	3b	1593uH	
Rser1	3b	1	2350mohm	
Laux1	5	5a	25uH	
Rser3	5a	4	90mohm	
Lsec1	9	9a	25uH	
Rser5	9a	10	180mohm	
Lsec2	7	7a	6.25uH	
Rser6	7a	8	20mohm	
K Lpri1  Laux1  Lsec1 Lsec2       1				
.param Cprm1=16.1pf				
.param Rdmp1=498442.58ohm				
Cpri1	3	1a	{Cprm1}	
Rser13	1a	1	10mohm	
Rdmp1	3	1	{Rdmp1}	
Rg3	3	0	20meg	
Rg5	5	0	20meg	
Rg7	1	0	20meg	
Rg9	4	0	20meg	
Rg11	9	0	20meg	
Rg12	7	0	20meg	
Rg19	10	0	20meg	
Rg20	8	0	20meg	
.ends				

.subckt	OLTI_EE1675_750315526		2  4  5  1  9  7	
.param RxLkg=7961.58ohm				
.param Leakage=15uh				
Rlkg	2	2a	{RxLkg}	
L_Lkg	2	2a	{Leakage}	
Lpri1	2a	2b	420uH	
Rser1	2b	4	1100mohm	
Laux1	5	5a	36.05uH	
Rser3	5a	1	970mohm	
Lsec1	9	9a	2.497uH	
Rser5	9a	7	10mohm	
K Lpri1  Laux1  Lsec1        1				
.param Cprm1=20.4pf				
.param Rdmp1=230885.85ohm				
Cpri1	2	4a	{Cprm1}	
Rser13	4a	4	10mohm	
Rdmp1	2	4	{Rdmp1}	
Rg3	2	0	20meg	
Rg5	5	0	20meg	
Rg7	4	0	20meg	
Rg9	1	0	20meg	
Rg11	9	0	20meg	
Rg19	7	0	20meg	
.ends				

.subckt	OLTI_EE1374_7508110331		3  5  2  1  6  9	
.param RxLkg=3446.21ohm				
.param Leakage=4.8uh				
Rlkg	3	3a	{RxLkg}	
L_Lkg	3	3a	{Leakage}	
Lpri1	3a	3b	495.2uH	
Rser1	3b	5	900mohm	
Laux1	2	2a	47.337uH	
Rser3	2a	1	400mohm	
Lsec1	6	6a	47.337uH	
Rser5	6a	9	145mohm	
K Lpri1  Laux1  Lsec1        1				
.param Cprm1=9.7pf				
.param Rdmp1=358980.37ohm				
Cpri1	3	5a	{Cprm1}	
Rser13	5a	5	10mohm	
Rdmp1	3	5	{Rdmp1}	
Rg3	3	0	20meg	
Rg5	2	0	20meg	
Rg7	5	0	20meg	
Rg9	1	0	20meg	
Rg11	6	0	20meg	
Rg19	9	0	20meg	
.ends				
