**************************************************
* Manufacturer:           Wurth Elektronik 
* Kinds:                  Flat Wire High Current SMT Ferrite Bead
* Matchcode:              WE-PBF 
* Library Type:           Pspice
* Version:                rev22a
* Created/modified by:    Ella      
* Date and Time:          2022-05-30
* Team:                   eiSos EDA Service  
* Contact:                libraries@we-online.com
**************************************************
* Copyright(C) 2022 Würth Elektronik eiSos GmbH & Co. KG
* All Rights Reserved.
**************************************************
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.
**************************************************
.subckt PBF_3029_7427933_39ohm 1 2
Rp 1 2 38
Cp 1 2 0.0001p
Rs 1 N3 0.0006
L1 N3 2 0.222u
.ends PBF_3029_7427933_39ohm
*******
.subckt PBF_4030_7427930_42ohm 1 2
Rp 1 2 45
Cp 1 2 0.01p
Rs 1 N3 0.0006
L1 N3 2 0.23u
.ends PBF_4030_7427930_42ohm
*******
.subckt PBF_4030_7427934_42ohm 1 2
Rp 1 2 45
Cp 1 2 0.0001p
Rs 1 N3 0.0004
L1 N3 2 0.25u
.ends PBF_4030_7427934_42ohm
*******
.subckt PBF_4030_74279390_42ohm 1 2
Rp 1 2 45
Cp 1 2 0.01p
Rs 1 N3 0.0006
L1 N3 2 0.23u
.ends PBF_4030_74279390_42ohm
*******
.subckt PBF_7847_7427932_98ohm 1 2
Rp 1 2 105
Cp 1 2 0.28p
Rs 1 N3 0.0009
L1 N3 2 0.78u
.ends PBF_7847_7427932_98ohm
*******
.subckt PBF_7847_74279392_98ohm 1 2
Rp 1 2 105
Cp 1 2 0.28p
Rs 1 N3 0.0009
L1 N3 2 0.78u
.ends PBF_7847_74279392_98ohm
*******
.subckt PBF_8530_7427931_91ohm 1 2
Rp 1 2 100
Cp 1 2 0.09p
Rs 1 N3 0.0009
L1 N3 2 0.49u
.ends PBF_8530_7427931_91ohm
*******
.subckt PBF_8530_74279391_91ohm 1 2
Rp 1 2 100
Cp 1 2 0.09p
Rs 1 N3 0.0009
L1 N3 2 0.49u
.ends PBF_8530_74279391_91ohm
*******
